US04186199
A stirred mixture, under N2, of 12.6 g of 1-(2-amino-4-trifluoromethylphenyl)indoline hydrochloride in 150 ml of dry CH2Cl2 is treated with 8.09 g of triethylamine. The mixture is cooled to 0°-5° C., and kept at that temperature while a solution of 5.62 g of benzoyl chloride and 25 ml of CH2Cl2 is added dropwise over 1.0 hour. After stirring at room temperature overnight, water is added to dissolve (C2H5)3N.HCl and the layers are separated. The organic phase is extracted further with water, 3 N--HCl, 3 N--NaOH, water again and dried over N2SO4. The solvent is removed leaving an oil which, when digested with ether, becomes a crystalline mass. After cooling, 1-(2-benzamido-4-trifluoromethylphenyl)indoline is obtained having m.p. 114°-119° C.

reactant | 1-(2-amino-4-trifluoromethylphenyl)indoline hydrochloride | 12.6 g | Cl.NC1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12
reactant | triethylamine | 8.09 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 5.62 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (C2H5)3N.HCl | N(CC)(CC)CC.Cl
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-(2-benzamido-4-trifluoromethylphenyl)indoline | C(C1=CC=CC=C1)(=O)NC1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12 | C22H17F3N2O
